US08802688B2
Step 2. 3-carbamoyl-1H-indole-5-carboxylic acid
A solution of ethyl 3-cyano-1H-indole-5-carboxylate (1.05 g, 4.89 mmol) in methanol (12 mL) was added to a 0° C. solution of urea hydrogen peroxide (4.74 g, 48.9 mmol) and sodium hydroxide (11.7 mL of a 2.5 M solution in water, 29.3 mmol). The mixture was allowed to warm to room temperature and stir overnight. An additional 2 mL of a 2.5 M solution of sodium hydroxide was added and the reaction was left stirring 4 hours. The mixture was concentrated and acidified to pH 2 using 6 M hydrochloric acid. The resulting precipitate was filtered off and dried under vacuum at 60° C. to give the title compound (915 mg, 92%). 1H NMR (400 MHz, DMSO-d6, δ): 12.46 (br. s., 1 H), 11.84 (s, 1 H), 8.85 (s, 1 H), 8.12 (d, J=2.5 Hz, 1 H), 7.75 (dd, J=8.6, 1.6 Hz, 1 H), 7.50-7.63 (m, 1 H), 7.47 (d, J=8.6 Hz, 1 H), 6.88 (br. s., 1 H).

reactant | ethyl 3-cyano-1H-indole-5-carboxylate | 4.89 mmol, 1.05 g | C(#N)C1=CNC2=CC=C(C=C12)C(=O)OCC | C12H10N2O2
reactant | urea hydrogen peroxide | 48.9 mmol, 4.74 g | OO.NC(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | O | H2O
product | 3-carbamoyl-1H-indole-5-carboxylic acid | 915 mg, 92% | C(N)(=O)C1=CNC2=CC=C(C=C12)C(=O)O | C10H8N2O3
